US05776983
1-Phenyl-2-(4-methoxyphenyl)ethanone was prepared from benzene and 4-methoxyphenylacetyl chloride (prepared by heating the commercially available carboxylic acid in thionyl chloride and subsequent concentration) using the method described in step A of Example 9. 1-Phenyl-2-(4-methoxyphenyl)ethanone was converted to the title compound following the procedures outlined in steps C-E of Example 1, except for the following modifications: 1) in step C, the acidic hydrolysis reaction, after dilution with H2O, was extracted 2× with Et2O prior to basification, extraction 3× with EtOAc and isolation of the desired amine after concentration; 2) the prep HPLC purification of step D was omitted; and 3) in step E, the final product was purified by prep HPLC using 46% solvent B as eluant.

reactant | 4-methoxyphenylacetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Phenyl-2-(4-methoxyphenyl)ethanone | C1(=CC=CC=C1)C(CC1=CC=C(C=C1)OC)=O | C15H14O2
